US04209521
3-(3-Methoxybenzoyl)-1-(1-[indol-3-ylmethyl]piperid-4-yl)urea
A solution of formaldehyde (0.4 cm3, 40% aqueous solution) was added to a stirred solution of 1-(3methoxy benzoyl)-3-(piperid-4-yl)urea (1.39 g, 5 mmol) and indole (0.6 g, 5 mmol) in acetic acid (3 cm3). The solution was allowed to stand for 5 hours then diluted with water (50 cm3), basified by addition of ammonia and the precipitated product collected, washed with water, and dried yielding the title compound as the free base (2.1 g). The base was dissolved in hot ethanol (30 cm3), cooled, and acidified with ethanolic hydrogen chloride to precipitate the hydrochloride (2.3 g, 100%). Recrystallisation from aqueous methanol (60% methanol, 70 cm3) gave 1.8 g (81%) m.p. 234°-5° C.

reactant | formaldehyde | 0.4 cm3 | C=O | CH2O
reactant | 1-(3methoxy benzoyl)-3-(piperid-4-yl)urea | 5 mmol, 1.39 g | COC=1C=C(C(=O)NC(=O)NC2CCNCC2)C=CC1 | C14H19N3O3
reactant | indole | 5 mmol, 0.6 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ammonia | N | H3N
solvent | acetic acid | 3 cm3 | C(C)(=O)O | C2H4O2
solvent | water | 50 cm3 | O | H2O
product | 3-(3-Methoxybenzoyl)-1-(1-[indol-3-ylmethyl]piperid-4-yl)urea | COC=1C=C(C(=O)NC(NC2CCN(CC2)CC2=CNC3=CC=CC=C23)=O)C=CC1 | C23H26N4O3
